US05134128
4(1-Acetoxy-9-thiophen-2-ylnonyl)-2-trimethylsilylfuran
A solution of 4-(1-hydroxy-9-thiophen-2-ylnonyl)-2-trimethylsilylfuran (0.034 g, 0.093 mmol), acetic anhydride (1 ml) and pyridine (0.25 ml) was stirred at room temperature until no starting material was visible by TLC. The reaction mixture was concentrated and the residue taken up in ethyl ether, washed with 10% hydrochloric acid, saturated sodium chloride, aqueous 5% cupric sulfate solution, water, saturated sodium chloride solution, dried over magnesium sulfate, filtered and concentrated to give a pale oil. Purificatioon by flash chromatography (silica, 100% hexane to 5% ethyl ether/hexane) gave the title compound.

reactant | 4-(1-hydroxy-9-thiophen-2-ylnonyl)-2-trimethylsilylfuran | 0.093 mmol, 0.034 g | OC(CCCCCCCCC=1SC=CC1)C=1C=C(OC1)[Si](C)(C)C | C20H32O2SSi
reactant | acetic anhydride | 1 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | pyridine | 0.25 ml | N1=CC=CC=C1 | C5H5N
reactant | hexane | CCCCCC | C6H14
solvent | ethyl ether hexane | C(C)OCC.CCCCCC
product | 4(1-Acetoxy-9-thiophen-2-ylnonyl)-2-trimethylsilylfuran | C(C)(=O)OC(CCCCCCCCC=1SC=CC1)C=1C=C(OC1)[Si](C)(C)C | C22H34O3SSi
